Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cold right foot
 
Major Surgical or Invasive Procedure:
right popliteal embolectomy
diagnostic angiogram

 
History of Present Illness:
___ hx of HTN, HLD, distant Rt groin liposarcoma, p/w DVT
and possible arterial occlusion. Patient denies pain or RLE
discomfort. His home nurse noticed some swelling over the last 
few days
which prompted a visit to his PCP ___. Because his foot looked
mottled he was sent to ___ where an
ultrasound showed a RLE DVT. It is unclear whether this was a
bedside ultrasound or a formal one but he was not sent over with
imaging. He was started on a heparin ggt and transferred to 
___
for further care. Patient denies hx of PVD or of DVTs. He also
denies hx of atrial fibrillation. He is not on anticoagulants.
 
Past Medical History:
PMH: HTN, HLD, hypothyroid, RLE liposarcoma s/p XRT and 
resection

PSH: right groin myxoid liposarcoma excision (___)
 
Social History:
___
Family History:
FH: negative for peripheral vascular disease
 
Physical Exam:
Phx: 98.1   64   154/78   22   96% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No LLE edema, LLE warm and well perfused, RLE mottled and
cool below knee, mild swelling
Right groin incision C/D/I
LLE: Fem P/ Pop P/ DP D/ ___ D
RLE: Fem P/ Pop D/ DP -/ ___ D
 
Pertinent Results:
___ 06:35AM BLOOD WBC-8.1 RBC-3.62* Hgb-10.6* Hct-31.9* 
MCV-88 MCH-29.3 MCHC-33.2 RDW-13.6 RDWSD-44.2 Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD Glucose-125* UreaN-8 Creat-1.1 Na-135 
K-3.9 Cl-104 HCO3-26 AnGap-9
___ 06:35AM BLOOD Calcium-8.5 Phos-2.5* Mg-2.3

CTA AORTA/BIFEM/ILIAC RUNOFF W/W&WO C AND RECONS ___
IMPRESSION:  
  
Occlusion of the right distal superficial femoral artery (3B: 
779). No 
evidence of flow within the right popliteal artery. Trace flow 
within the 
posterior tibial artery is identified via filling through 
collaterals 
beginning at the level of the proximal calf. Minimal flow is 
identified in the 
peroneal artery to the level of the ankle, via collateral 
filling. No flow is 
clearly identified in the anterior tibial artery on the right. 
  
Left leg: Three-vessel runoff to the level of the proximal calf. 
Trace flow 
within the anterior tibial artery seen to the level of the mid 
left calf. Flow 
within the peroneal and posterior tibial arteries is seen to the 
level of the 
ankle. 
  
Enlarged bladder and trabeculated prostate.  Hepatic steatosis. 

 
Brief Hospital Course:
The patient is a ___ year old male who was seen and evaluated by 
the vascular surgery service on ___.  The patient was found 
to have an occlusion of his distal superficial femoral artery on 
CTA and an emergent embolectomy was indicated.  The patient 
reported ___ pain but showed decreased motor function, yet 
indicated he did not want to have surgery.  Our team stressed to 
the patient and family the need for emergent surgery, and 
eventually the patient was amenable to the procedure.  Of note, 
both the patient and a son signed the consent form.  It was 
later brought to our attention that the son provided a 
fraudulent health care proxy sheet, and our social work and 
legal teams settled the matter and new documents showing his 
eldest daughter to be health care proxy were signed.

The patient underwent below knee popliteal embolectomy on 
___.  The procedure was uncomplicated and the patient 
tolerated it well.  For details of the surgery, please see the 
surgeons detailed operative note.  A post operative check was 
satisfactory. The patient was continued on a heparin drip 
overnight.

On the early morning of POD#1, the patient became confused and 
delirious and attempted to remove all lines and his telemetry 
monitoring system.  Because of this, he was restrained in his 
bed overnight.  His foot appeared to have a pinkish color and 
was warmer to the touch.  Our team decided to discontinue the 
heparin drip and start Lovenox in an attempt to remove lines and 
other aggravating factors from this usually pleasant ___ year old 
man.

On POD#2 from the original procedure (___), his foot 
appeared to have much darker color from POD#1 and was cooler to 
the touch. He was taken to the OR for diagnostic angiogram.  
This found poor arterial flow to the lower extremity, and it is 
believed this patient will eventually require an above knee 
amputation.  This was communicated to the health care proxy and 
palliative care was consulted as well.  A family meeting took 
place on ___ and the decision was made to take the patient 
home and see how he and his leg progress.  It is unlikely the 
patient will ever be amenable to above knee amputation per the 
health care proxy.  On ___ he was discharged to home with 
follow up appointments with Dr. ___ his PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO DAILY 
2. PrimiDONE 50 mg PO QHS 
3. Finasteride 5 mg PO DAILY 
4. Donepezil 5 mg PO QHS 
5. TraZODone 50 mg PO QHS:PRN insomnia 
6. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth every six (6) hours Disp #*60 Tablet Refills:*0 
2.  Atenolol 25 mg PO DAILY  
3.  Enoxaparin Sodium 70 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 70 mg SC Daily Disp #*14 Syringe 
Refills:*0 
4.  Warfarin 2 mg PO DAILY16 
please have INR checked in 3 days 
RX *warfarin [Coumadin] 2 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
5.  Donepezil 5 mg PO QHS  
6.  Finasteride 5 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Levothyroxine Sodium 25 mcg PO DAILY  
9.  PrimiDONE 50 mg PO QHS  
10.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
peripheral arterial disease

 
Discharge Condition:
 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ and 
underwent right popliteal embolectomy as well as diagnostic 
angiogram 2 days afterwards. You have now recovered from surgery 
and are ready to be discharged. Please follow the instructions 
below to continue your recovery:

MEDICATION:
• Take Aspirin 81mg once daily 
• You will be anticoagulated with Coumadin (bridged with 
Lovenox)
• Continue all other medications you were taking before surgery, 
unless otherwise directed
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort
WHAT TO EXPECT:
It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When you go home, you may walk and use stairs
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, you may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate
• No driving until you are no longer taking pain medications

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 
 
 
Followup Instructions:
___